US06964979B2
4-Bromo-3-fluoro-6-nitrotoluene
To a stirred solution of 4-bromo-3-fluorotoluene (10 g, 52.9 mmol) in H2SO4 (100 mL) was added KNO3 (5.34 g, 52.9 mmol) at 0° C. After stirring overnight at room temperature, the reaction mixture was poured into ice (200 g) and extracted with EtOAc (3×300 mL). The organic solution was washed with brine (200 mL), dried (Na2SO4), and concentrated to give 12.35 g (100%) of title compound as a pale yellow oil. 1H NMR (CDCl3): 300 MHz δ 8.29 (d, J=6.30 Hz, 1H), 7.12 (d, J=8.61 Hz, 1H), 2.60 (s, 3H).

reactant | 4-bromo-3-fluorotoluene | 52.9 mmol, 10 g | BrC1=C(C=C(C=C1)C)F | C7H6BrF
reactant | KNO3 | 52.9 mmol, 5.34 g | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 100 mL | OS(=O)(=O)O | H2O4S
product | 4-Bromo-3-fluoro-6-nitrotoluene | 12.35 g, 100% | BrC1=C(C=C(C(=C1)[N+](=O)[O-])C)F | C7H5BrFNO2
